US08563575B2
121a) 3-[4-(benzyloxy)phenyl]-7-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A suspension of 3-[4-(benzyloxy)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (360 mg), 2-iodopropane (0.217 mL) and potassium carbonate (180 mg) in DMF (10 mL) was stirred overnight at room temperature. The reaction mixture was poured into water, and the mixture was extracted with AcOEt. The extract was washed with water and brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, eluted with 15%-20% AcOEt in hexane) to give the title compound (218 mg) as colorless oil.

reactant | 3-[4-(benzyloxy)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 360 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=CC2C)=O | C20H17N3O2
reactant | 2-iodopropane | 0.217 mL | IC(C)C | C3H7I
reactant | potassium carbonate | 180 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[4-(benzyloxy)phenyl]-7-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 218 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2C)C(C)C)=O | C23H23N3O2
